US08071584B2
3-(2,2-Dimethyl-1,1-dioxidotetrahydro-2H-thiopyran-4-yl)-5-phenyl-1H-indole-7-carboxamide
5-Bromo-3-(2,2-dimethyl-1,1-dioxidotetrahydro-2H-thiopyran-4-yl)-1H-indole-7-carboxamide (104 mg, 0.26 mmol) was placed in a microwave vial and dissolved with 1,4-dioxane (6 mL) and water (3 mL). 3-Phenylboronic acid (64 mg, 0.52 mmol) and K2CO3 (108 mg, 0.78 mmol) were added. Argon was bubbled in the mixture for 10 min with stirring. PdCl2(dppf) (10 mg, 0.02 mmol) was added, and argon was bubbled another 10 min. The vial is sealed and heated in a microwave for 5 min at 100° C. on high absorption. The reaction was evaporated to remove most of the dioxane. The residue was partitioned between ethyl acetate and water. The layers were separated, the organic layer was dried (MgSO4), and the solvent was removed under vacuum. The residue was dissolved in DMSO (3 mL), and was purified on a Gilson HPLC. The desired fractions were concentrated, giving 20 mg (18%) of the title compound.

reactant | 5-Bromo-3-(2,2-dimethyl-1,1-dioxidotetrahydro-2H-thiopyran-4-yl)-1H-indole-7-carboxamide | 0.26 mmol, 104 mg | BrC=1C=C2C(=CNC2=C(C1)C(=O)N)C1CC(S(CC1)(=O)=O)(C)C | C16H19BrN2O3S
reactant | 1,4-dioxane | 6 mL | O1CCOCC1 | C4H8O2
reactant | K2CO3 | 0.78 mmol, 108 mg | C(=O)([O-])[O-].[K+].[K+]
catalyst | PdCl2(dppf) | 0.02 mmol, 10 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | water | 3 mL | O | H2O
product | 3-(2,2-Dimethyl-1,1-dioxidotetrahydro-2H-thiopyran-4-yl)-5-phenyl-1H-indole-7-carboxamide | 20 mg, 18% | CC1(S(CCC(C1)C1=CNC2=C(C=C(C=C12)C1=CC=CC=C1)C(=O)N)(=O)=O)C | C22H24N2O3S
